US05539074
5 g of 4-methacryloyloxybutyl (E)-3-(4-ethoxycarbonyloxyphenyl)acrylate were dissolved in 40 ml of pyridine and treated at room temperature with a mixture of 60 ml of acetone and 7 ml of 25% aqueous ammonia solution. The reaction mixture was stirred at room temperature for 12 hours. After distillation of the acetone the mixture was neutralized with 2N hydrochloric acid, diluted with 100 ml of water and subsequently extracted 3 times with 100 ml of diethyl ether each time. The combined organic phases were dried over sodium sulphate, filtered and concentrated. Chromatographic purification of the residue on silica gel with hexane/ethyl acetate (vol. 7:3) gave 4-methacryloyloxybutyl (E)-3-(4-hydroxyphenyl)acrylate.

reactant | 4-methacryloyloxybutyl (E)-3-(4-ethoxycarbonyloxyphenyl)acrylate | 5 g | C(C)OC(=O)OC1=CC=C(C=C1)/C=C/C(=O)OCCCCOC(C(=C)C)=O | C20H24O7
reactant | acetone | 60 ml | CC(=O)C | C3H6O
reactant | ammonia | 7 ml | N | H3N
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
product | 4-methacryloyloxybutyl (E)-3-(4-hydroxyphenyl)acrylate | OC1=CC=C(C=C1)/C=C/C(=O)OCCCCOC(C(=C)C)=O | C17H20O5
